US04071519
13.0g (0.10 mole) of 5-fluorouracil was dissolved in 70 ml of dimethyl formamide, then 11.9g (0.12 mole) of n-butyl isocyanate was added thereto at room temperature and stirred at the same temperature for 24 hours. The reaction mixture was concentrated to 40ml by removing dimethyl formamide and excess n-butyl isocyanate under reduced pressure. The residue was poured into 300ml of water and resultant precipitate was filtered off. The precipitate was washed and dried and 16.6g (72.3% yield) of 1-(n-butylcarbamoyl)-5-fluorouracil was obtained

reactant | 5-fluorouracil | 0.10 mole, 13.0g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | n-butyl isocyanate | 0.12 mole, 11.9g | C(CCC)N=C=O | C5H9NO
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-(n-butylcarbamoyl)-5-fluorouracil | 16.6g, 72.3% yield | C(CCC)NC(=O)N1C(=O)NC(=O)C(=C1)F | C9H12FN3O3
